US08133908B2
Description 34: methyl 3-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-6-methyl-2-pyridinecarboxylate (D34)
6-methyl-2-[(methyloxy)carbonyl]-3-pyridinecarboxylic acid D33 (1.15 g) was suspended in toluene (40 ml) and DIPEA (1.25 ml, 7.16 mmol) was added, causing the complete dissolution of the solid. This mixture was stirred 10 minutes at room temperature, then diphenyl azidophosphate (1.35 ml, 6.26 mmol) was added in one portion and the mixture was stirred at reflux for 1 hour. The solution was cooled at room temperature and t-BuOH (2.5 ml, 26 mmol) was added in one portion. The mixture was then stirred at 70° C. for 1 hour and then cooled at room temperature, Et2O (50 ml) was added and the resulting solution washed with NaHCO3 saturated solution. The water phases were joined together and back-extracted with Et2O. The two organic solutions were joined together, dried over Na2SO4 and evaporated at reduced pressure, obtaining the crude target material as pale yellow oil. This material was purified by flash chromatography on silica gel (Biotage, EtOAc/Cy from 10/90 to 70/30; Snap-100 g column). The title compound D34 (1.315 g) was obtained as white solid. UPLC (Basic GEN_QC): rt=0.68 minutes, peak observed: 267 (M+1). C13H18N2O4 requires 266. 1H NMR (400 MHz, CDCl3) δ ppm 10.13 (bs., 1 H), 8.77 (d, 1 H), 7.34 (d, 1 H), 4.03 (s, 3H), 2.59 (s, 3 H), 1.53-1.56 (m, 9 H).

reactant | 6-methyl-2-[(methyloxy)carbonyl]-3-pyridinecarboxylic acid | CC1=CC=C(C(=N1)C(=O)OC)C(=O)O | C9H9NO4
reactant | DIPEA | 7.16 mmol, 1.25 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | diphenyl azidophosphate | 6.26 mmol, 1.35 ml | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)N=[N+]=[N-] | C12H10N3O3P
reactant | t-BuOH | 26 mmol, 2.5 ml | CC(C)(C)O | C4H10O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | Et2O | 50 ml | CCOCC | C4H10O
product | methyl 3-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-6-methyl-2-pyridinecarboxylate | CC(C)(C)OC(=O)NC=1C(=NC(=CC1)C)C(=O)OC | C13H18N2O4
